US06613921B2
To a stirred mixture of 10-bromo-5H-dibenzo[a,d]cycloheptene (9.70 g, 0.036 mol) (J. Med. Chem. 1995 38(4), 708-714), palladium(II)chloride bistriphenylphosphine (1.25 g, 0.018 mol), triphenyl phosphine (0.942 g, 0.0036 mol), copper(ll)acetate hydrate (0.327 g, 0.002 mol) in 20 ml of diisopropyl amine was added (trimethylsilyl)acetylene (3.88 g, 0.040 mol) and refluxed for an hour. The resulting mixture was concentrated, diluted with hexane (25 ml) and filtered through a pad of silica gel. The filtrate was concentrated to yield 5.57 g of 10-(trimethylsilyl)ethynyl-5H-dibenzo[a,d]cycloheptene.

reactant | 10-bromo-5H-dibenzo[a,d]cycloheptene | 0.036 mol, 9.70 g | BrC1=CC2=C(CC3=C1C=CC=C3)C=CC=C2 | C15H11Br
reactant | triphenyl phosphine | 0.0036 mol, 0.942 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (trimethylsilyl)acetylene | 0.040 mol, 3.88 g | C[Si](C)(C)C#C | C5H10Si
solvent | diisopropyl amine | 20 ml | C(C)(C)NC(C)C | C6H15N
product | 10-(trimethylsilyl)ethynyl-5H-dibenzo[a,d]cycloheptene | 5.57 g | C[Si](C)(C)C#CC1=CC2=C(CC3=C1C=CC=C3)C=CC=C2 | C20H20Si
